US06472412B1
Manganese dioxide (6.0 g) is added to a solution of 4-cyclopentyloxy-2-hydroxymethyl-5-methoxypyridine (2.0 g) in diethyl ether (80 mL) and dichloromethane (10 mL) and the mixture stirred at room temperature for 90 hours. After filtering the filter pad is washed with dichloromethane and the combined filtrate and washings are evaporated to give a white solid. The solid is dried under high vacuum to give 4-cyclopentyloxy-5-methoxypyridine-2-carboxaldehyde (1.65 g). [1Hnmr in D6-DMSO shifts relative to Me4Si: 1.55-1.79, 6H, m; 1.97, 2H, m; 3.96, 3H, s; 5.03, 1H, m; 7.45, 1H, s; 8.41, 1H, s; 9.83, 1H, s.].

reactant | 4-cyclopentyloxy-2-hydroxymethyl-5-methoxypyridine | 2.0 g | C1(CCCC1)OC1=CC(=NC=C1OC)CO | C12H17NO3
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | Manganese dioxide | 6.0 g | [O-2].[O-2].[Mn+4]
product | 4-cyclopentyloxy-5-methoxypyridine-2-carboxaldehyde | 1.65 g | C1(CCCC1)OC1=CC(=NC=C1OC)C=O | C12H15NO3
